US09340556B2
A solution of 3-Carboxy-1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-5-diazonium chloride (1.85 g, 5.68 mmol) in sulfuric acid (19.98 ml, 187 mmol) was heated at 95° C. for 20 h. Water was added, the precipitates were collected to provide 5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid (1.46 g, 5.13 mmol, 90% yield). LCMS: (M+H)+: 285.2

reactant | 3-Carboxy-1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-5-diazonium chloride | 5.68 mmol, 1.85 g | [Cl-].C(=O)(O)C1=NN(C=2C=C3C(=C(C2C1=O)[N+]#N)OCO3)CC
reactant | sulfuric acid | 187 mmol, 19.98 ml | S(O)(O)(=O)=O | H2O4S
solvent | Water | O | H2O
product | 5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid | 5.13 mmol, 1.46 g, 90% yield | ClC1=C2C(C(=NN(C2=CC(=C1O)O)CC)C(=O)O)=O | C11H9ClN2O5
